US06200986B1
N,N′-Bis(picolinovl)-2.5-diazabicyclo[2 .2.2]octane
Combine 2,5-diazabicyclo[2.2.2]octane (1 molar equivalent), picolinic acid (3 molar equivalents), BOP reagent (3 molar equivalents), HOBt hydrate (3 molar equivalents) and iPr2NEt (5 molar eqiuvalents) in DMF. Maintain the reaction at room temperature for 18 h. Quench the reaction by pouring into brine and extracting with EtOAc. Dry the combined organic extracts over Na2SO4 and remove the solvent in vacuo. Purification by flash chromatography gives the title product.

reactant | 2,5-diazabicyclo[2.2.2]octane | 1 molar | C12NCC(NC1)CC2 | C6H12N2
reactant | picolinic acid | 3 molar | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | BOP reagent | 3 molar | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt hydrate | 3 molar | C1=CC=C2C(=C1)N=NN2O.O
reactant | iPr2NEt | 5 molar | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | N,N′-Bis(picolinovl)-2.5-diazabicyclo[2 .2.2]octane | N1=C(C=CC=C1)C(=O)N1C2CN(C(C1)CC2)C(C2=NC=CC=C2)=O | C18H18N4O2
